US06117987
3,4-Dihydro-4,4-dimethyl-1-(carboethoxyethyl)-6-acetyl-naphthalene (Compound D17)
A solution of (+/-) 6-(2-methyl-1,3-dioxolan-2-yl)-1,2,3,4-tetrahydro-4,4-dimethyl-1-hydroxy-1-(carboethoxymethyl)-naphthlene ((Compound D16, 321 mg, 0.90 mmol) and catalytic amount of TsOH in 20 ml of benzene was refluxed for 12 h. During the reaction the water generated from the reaction was periodically removed by a Dean-Stark trap. The solvent was removed and the residue was purified by column chromatography (silica, ethyl acetate/hexane (1/3)) to give the title compound as an oil (215 mg).

reactant | (+/-) 6-(2-methyl-1,3-dioxolan-2-yl)-1,2,3,4-tetrahydro-4,4-dimethyl-1-hydroxy-1-(carboethoxymethyl)-naphthlene | CC1(OCCO1)C=1C=C2C(CCC(C2=CC1)(CC(=O)OCC)O)(C)C | C20H28O5
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 3,4-Dihydro-4,4-dimethyl-1-(carboethoxyethyl)-6-acetyl-naphthalene | 215 mg | CC1(CC=C(C2=CC=C(C=C12)C(C)=O)CCC(=O)OCC)C | C19H24O3
